US07645881B2
tert-Butyl 3-amino-5-hydroxy-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylate, prepared in example 1C, Step C, (40 mg, 0.14 mmol) in CH3CN (1 mL) was combined with Et3N (52 mg, 0.52 mmol) and pyrrolidine-1-carbonyl chloride (51 mg, 0.39 mmol) at room temperature. After stirring for 3 h, the mixture was evaporated under reduced pressure, water was added and extracted with ethyl acetate (3 mL), washed with water (3 mL×3), brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by preparative HPLC to provide tert-butyl 3-amino-4,6-dimethyl-5-(pyrrolidine-1-carbonyloxy)-thieno[2,3-b]pyridine-2-carboxylate (41 mg, 52%).

reactant | tert-Butyl 3-amino-5-hydroxy-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylate | NC1=C(SC2=NC(=C(C(=C21)C)O)C)C(=O)OC(C)(C)C | C14H18N2O3S
reactant | Et3N | 0.52 mmol, 52 mg | CCN(CC)CC | C6H15N
reactant | pyrrolidine-1-carbonyl chloride | 0.39 mmol, 51 mg | N1(CCCC1)C(=O)Cl | C5H8ClNO
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | tert-butyl 3-amino-4,6-dimethyl-5-(pyrrolidine-1-carbonyloxy)-thieno[2,3-b]pyridine-2-carboxylate | 41 mg, 52% | NC1=C(SC2=NC(=C(C(=C21)C)OC(=O)N2CCCC2)C)C(=O)OC(C)(C)C | C19H25N3O4S
